US05185370
3-[(3,4-Dichlorophenyl)methylene]-2,4-pentanedione
The procedure described in Example 1 was repeated by using 4.26 g of 3,4-dichlorobenzaldehyde and 3.0 g of 2,4-pentanedione. Yield 1.3 g, mp 73° C.

reactant | 3,4-dichlorobenzaldehyde | 4.26 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 2,4-pentanedione | 3.0 g | CC(CC(C)=O)=O | C5H8O2
product | 3-[(3,4-Dichlorophenyl)methylene]-2,4-pentanedione | ClC=1C=C(C=CC1Cl)C=C(C(C)=O)C(C)=O | C12H10Cl2O2
